### PR TITLE
feat: detect and special case ITE/XORs when lowering AIG to CNF

### PR DESCRIPTION
**Pull request by georgerennie**
This PR adds detection and optimized lowering of if-then-else/XOR/XNOR gates to `bv_decide`'s AIG to CNF lowering. This detects `c ? t : f` gates of the form `(c → t) ∧ (¬c → f)` in the AIG, up to permutation/negation of inputs. This pattern also covers XOR/XNOR which are expressed as `a ? ¬b : b`/`a ? b : ¬b`. When a gate is lowered, if it matches these patterns it is lowered to a 4-clause encoding instead of the 12 clauses used by lowering as AND gates.

### CODE REVIEW

**Comment by georgerennie** [comment]
changelog-tactics

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/c4a3e82048dfc9a05ec7d2bb2644e8b0f5a58faa?reference=a806b5c9771998bcd75a5920da160b6d14a39346) for c4a3e82048dfc9a05ec7d2bb2644e8b0f5a58faa against a806b5c9771998bcd75a5920da160b6d14a39346 are in. There are significant results. @hargoniX

- 🟥 `build//instructions`: **+14.5G** (**+0.13%**)

**Large changes (7✅, 3🟥)**

- 🟥 `build/module/Std.Sat.AIG.CNF//instructions`: **+14.4G** (**+214.71%**)
- ✅ `elab/bv_decide_inequality//instructions`: **-64.2G** (**-56.45%**)
- ✅ `elab/bv_decide_inequality//task-clock`: **-6s** (**-60.73%**)
- ✅ `elab/bv_decide_inequality//wall-clock`: **-6s** (**-59.24%**)
- ✅ `elab/bv_decide_large_aig//instructions`: **-4.0G** (**-10.02%**)
- ✅ `elab/bv_decide_mul//instructions`: **-7.6G** (**-18.73%**)
- ✅ `elab/bv_decide_mul//task-clock`: **-576ms** (**-20.03%**)
- ✅ `elab/bv_decide_mul//wall-clock`: **-581ms** (**-20.12%**)
- 🟥 `elab/bv_decide_realworld//instructions`: **+6.0G** (**+38.56%**)
- 🟥 `elab/bv_decide_realworld//task-clock`: **+286ms** (**+21.69%**)

**Medium changes (1✅, 2🟥)**

- ✅ `elab/bv_decide_mod//instructions`: **-12.1G** (**-5.71%**)
- 🟥 `elab/bv_decide_mod//task-clock`: **+1s** (**+5.25%**)
- 🟥 `elab/bv_decide_mod//wall-clock`: **+1s** (**+5.37%**)

**Small changes (1✅)**

- ✅ `build/module/Lean.Elab.Tactic//instructions`: **-20.3M** (**-2.14%**) (reduced significance based on absolute threshold)

**Review by hargoniX — COMMENTED** [review]
Before going into deeper review here, Bitwuzla has specific support for detecting that this does not destroy sharing: https://github.com/bitwuzla/bitwuzla/blob/main/src/lib/bitblast/aig/aig_cnf.cpp#L119-L123. This seems to be missing here I think? Is this intentional? If yes, why is it okay to do that?

**Comment by georgerennie** [comment]
I don't currently do that because I was working off [aigtocnf](https://github.com/arminbiere/aiger/blob/master/aigtocnf.c) which doesn't. I'm not certain how much it affects things, but if we want to add that it would require a bit of a restructuring of the lowering in general - we would want to do a backwards pass first to calculate refcounts then a forward pass to instantiate gates based on them. It may well be worth doing this anyway (it also makes a plaisted-greenbaum implementation slightly neater), but it would certainly make the PR more complex.

File: src/Std/Sat/AIG/CNF.lean [hunk 1]
```diff
@@ -524,6 +633,117 @@ theorem State.sat_iff : State.Sat assign state ↔ state.cnf.Sat assign := by rf
 @[simp]
 theorem State.unsat_iff : State.Unsat state ↔ state.cnf.Unsat := by rfl
 
+/--
+Detect if-then-else and XOR/XNOR gates of the form `(c → t) ∧ (¬c → f) = ¬(c ∧ ¬t) ∧ ¬(¬c ∧ ¬f)`.
+-/
+def detectIte {aig : AIG Nat} (root : Nat) (h : root < aig.decls.size) : Option (Fanin × Fanin × Fanin) := do
+  -- Match root = (l ∧ r)
+  let (eq:=hroot) .gate l r := aig.decls[root]'h | none
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
  let (eq := hroot) .gate l r := aig.decls[root]'h | none
```

File: src/Std/Sat/AIG/CNF.lean [hunk 2]
```diff
@@ -524,6 +633,117 @@ theorem State.sat_iff : State.Sat assign state ↔ state.cnf.Sat assign := by rf
...
+  have := aig.hdag h hroot
+
+  -- We expect the structure to be a conjunction of disjunctions
+  if ¬l.invert ∨ ¬r.invert then
+    none
+
+  -- Match l = (l0 ∧ l1)
+  let (eq:=hl) .gate l0 l1 := aig.decls[l.gate] | none
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
  let (eq := hl) .gate l0 l1 := aig.decls[l.gate] | none
```

File: src/Std/Sat/AIG/CNF.lean [hunk 3]
```diff
@@ -524,6 +633,117 @@ theorem State.sat_iff : State.Sat assign state ↔ state.cnf.Sat assign := by rf
...
+  have := aig.hdag (by omega) hl
+
+  -- Match r = (r0 ∧ r1)
+  let (eq:=hr) .gate r0 r1 := aig.decls[r.gate] | none
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
  let (eq := hr) .gate r0 r1 := aig.decls[r.gate] | none
```

File: src/Std/Sat/AIG/CNF.lean [hunk 4]
```diff
@@ -524,6 +633,117 @@ theorem State.sat_iff : State.Sat assign state ↔ state.cnf.Sat assign := by rf
...
+/--
+Detect if-then-else and XOR/XNOR gates of the form `(c → t) ∧ (¬c → f) = ¬(c ∧ ¬t) ∧ ¬(¬c ∧ ¬f)`.
+-/
+def detectIte {aig : AIG Nat} (root : Nat) (h : root < aig.decls.size) : Option (Fanin × Fanin × Fanin) := do
+  -- Match root = (l ∧ r)
+  let (eq:=hroot) .gate l r := aig.decls[root]'h | none
+  have := aig.hdag h hroot
+
+  -- We expect the structure to be a conjunction of disjunctions
+  if ¬l.invert ∨ ¬r.invert then
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
  if !l.invert || !r.invert then
```

File: src/Std/Sat/AIG/CNF.lean [hunk 5]
```diff
@@ -524,6 +633,117 @@ theorem State.sat_iff : State.Sat assign state ↔ state.cnf.Sat assign := by rf
...
+    some (l1, l0.flip true, r0.flip true)
+
+  else
+    none
+
+theorem detectIte_cond_lt {aig : AIG Nat} {root c t f} {h : root < aig.decls.size}
+    (heq : detectIte root h = some ⟨c, t, f⟩) :
+    c.gate < root := by
+  simp only [detectIte] at heq
+  split at heq; (all_goals try contradiction); next l r hroot =>
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]: This is not really the style of proof we usually do, `fun_cases` should be able to help you a lot here I think, similar remarks apply for the proofs below.

File: src/Std/Sat/AIG/CNF.lean [hunk 6]
```diff
@@ -543,25 +763,50 @@ where
...
+          have hltf := toCNF.detectIte_ifFalse_lt hite
+
+          let ⟨cstate, hcstate⟩ := go aig cond.gate (by omega) state
+          let ⟨tstate, htstate⟩ := go aig ifTrue.gate (by omega) cstate
+          let ⟨fstate, hfstate⟩ := go aig ifFalse.gate (by omega) tstate
+
+          have hcstate' : toCNF.State.IsExtensionBy state fstate cond.gate (by omega) := by
+            apply toCNF.State.IsExtensionBy_trans_left (h23 := hfstate)
+            apply toCNF.State.IsExtensionBy_trans_left (h23 := htstate)
+            · exact hcstate
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
            exact hcstate
```

File: src/Std/Sat/AIG/CNF.lean [hunk 7]
```diff
@@ -543,25 +763,50 @@ where
...
+
+          have htstate' : toCNF.State.IsExtensionBy cstate fstate ifTrue.gate (by omega) := by
+            apply toCNF.State.IsExtensionBy_trans_left (h23 := hfstate)
+            · exact htstate
```
Comment (hargoniX) [inline src/Std/Sat/AIG/CNF.lean]:
```suggestion
            exact htstate
```

**Review by hargoniX — CHANGES_REQUESTED** [review]

File: src/Std/Sat/AIG/CNF.lean (hunk 5 above)
Comment (georgerennie) [reply src/Std/Sat/AIG/CNF.lean]: I've tried to tidy these up a bit using `fun_cases`, and splitting out the definition of `detectIte` into two parts to make it a little easier to write. Not sure its perfect though so if you have any suggestions let me know.

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/178a1089e49c4ce0baf23fd4d9f287238904a7bc?reference=9e44042a4208e8bbb06dc3a43a0ada0d933170b9) for 178a1089e49c4ce0baf23fd4d9f287238904a7bc against 9e44042a4208e8bbb06dc3a43a0ada0d933170b9 are in. There are significant results. @hargoniX

- 🟥 `build//instructions`: **+49.6G** (**+0.43%**)

**Large changes (17✅, 6🟥)**

- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Normalize//instructions`: **+6.4G** (**+222.21%**)
- 🟥 `compiled/rbmap_checkpoint//instructions`: **+877.3M** (**+6.88%**)
- ✅ `elab/bv_decide_inequality//instructions`: **-64.0G** (**-56.88%**)
- ✅ `elab/bv_decide_inequality//maxrss`: **-228MiB** (**-20.79%**)
- ✅ `elab/bv_decide_inequality//task-clock`: **-6s** (**-60.49%**)
- ✅ `elab/bv_decide_inequality//wall-clock`: **-6s** (**-59.12%**)
- ✅ `elab/bv_decide_large_aig//instructions`: **-3.7G** (**-9.67%**)
- ✅ `elab/bv_decide_large_aig//maxrss`: **-284MiB** (**-15.82%**)
- ✅ `elab/bv_decide_mul//instructions`: **-7.6G** (**-18.93%**)
- ✅ `elab/bv_decide_mul//task-clock`: **-534ms** (**-18.77%**)
- 🟥 `elab/bv_decide_realworld//instructions`: **+33.1G** (**+215.46%**)
- 🟥 `elab/bv_decide_realworld//maxrss`: **+247MiB** (**+32.63%**)
- 🟥 `elab/bv_decide_realworld//task-clock`: **+1s** (**+148.76%**)
- 🟥 `elab/bv_decide_realworld//wall-clock`: **+1s** (**+125.31%**)
- ✅ `elab/bv_decide_rewriter//instructions`: **-3.6G** (**-39.05%**)
- ✅ `elab/bv_decide_rewriter//task-clock`: **-227ms** (**-30.92%**)
- ✅ `elab/bv_decide_rewriter//wall-clock`: **-234ms** (**-32.75%**)
- ✅ `elab/bv_stress_replicate//instructions`: **-1.3G** (**-7.08%**)
- ✅ `elab/bv_stress_replicate//wall-clock`: **-99ms** (**-9.28%**)
- ✅ `elab/bv_stress_structures_1//instructions`: **-17.4G** (**-54.07%**)
- *and 3 more*

**Medium changes (3✅, 10🟥)**

- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Normalize.AC//instructions`: **+1.8G** (**+29.12%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Normalize.AndFlatten//instructions`: **+1.0G** (**+46.44%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Normalize.EmbeddedConstraint//instructions`: **+1.3G** (**+86.02%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Normalize.Enums//instructions`: **+2.0G** (**+32.08%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Reflect.Basic//instructions`: **+1.2G** (**+33.63%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Meta.Tactic.BVDecide.Reflect.Reify//instructions`: **+2.0G** (**+37.30%**) (reduced significance based on absolute threshold)
- ✅ `elab/bv_decide_mod//instructions`: **-13.2G** (**-6.28%**)
- 🟥 `elab/bv_decide_mod//task-clock`: **+1s** (**+5.72%**)
- 🟥 `elab/bv_decide_mod//wall-clock`: **+1s** (**+5.79%**)
- ✅ `elab/bv_decide_mul//wall-clock`: **-496ms** (**-17.32%**)
- ✅ `elab/bv_stress_replicate//task-clock`: **-104ms** (**-10.09%**)
- 🟥 `size/all/.c//lines`: **+52.4k** (**+0.44%**)
- 🟥 `size/all/.ir//bytes`: **+1MiB** (**+0.41%**)

**Small changes (15✅, 79🟥)**

- ✅ `build/module/Init.Data.Iterators.Combinators//instructions`: **-4.1M** (**-0.81%**)
- ✅ `build/module/Init.Data.Iterators.Consumers.Collect//instructions`: **-4.1M** (**-0.62%**)
- ✅ `build/module/Init.Data.Nat.Internal//instructions`: **-3.9M** (**-0.91%**)
- ✅ `build/module/Init.Data.UInt.Log2//instructions`: **-3.5M** (**-0.80%**)
- ✅ `build/module/Init.Grind.Homo//instructions`: **-3.5M** (**-0.61%**)
- ✅ `build/module/Init.MacroTrace//instructions`: **-3.9M** (**-0.62%**)
- ✅ `build/module/Init.Syntax//instructions`: **-4.4M** (**-1.26%**)
- 🟥 `build/module/Lake.DSL.DeclUtil//instructions`: **+129.8M** (**+4.14%**)
- ✅ `build/module/Lean.Data.Lsp//instructions`: **-14.1M** (**-1.92%**)
- 🟥 `build/module/Lean.Elab.AssertExists//instructions`: **+98.9M** (**+3.86%**)
- 🟥 `build/module/Lean.Elab.AuxDef//instructions`: **+86.3M** (**+5.66%**)
- 🟥 `build/module/Lean.Elab.CheckTactic//instructions`: **+160.7M** (**+7.04%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Elab.Command.WithWeakNamespace//instructions`: **+137.7M** (**+12.78%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Elab.ConfigEval.Util//instructions`: **+94.1M** (**+2.39%**)
- 🟥 `build/module/Lean.Elab.GenInjective//instructions`: **+81.6M** (**+8.53%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Elab.InfoTrees//instructions`: **+91.0M** (**+7.17%**) (reduced significance based on absolute threshold)
- 🟥 `build/module/Lean.Elab.Print//instructions`: **+142.6M** (**+2.36%**)
- 🟥 `build/module/Lean.Elab.RecommendedSpelling//instructions`: **+85.4M** (**+5.27%**)
- 🟥 `build/module/Lean.Elab.Tactic.BVDecide.BVCheck//instructions`: **+367.2M** (**+21.53%**) (reduced significance based on *//lines)
- 🟥 `build/module/Lean.Elab.Tactic.BVDecide.Normalize//instructions`: **+140.6M** (**+13.21%**) (reduced significance based on *//lines)
- *and 73 more*
- *and 1 hidden*

**Comment by hargoniX** [comment]
!bench

**Comment by leanprover-radar** [comment]
[Benchmark results](https://radar.lean-lang.org/repos/lean4/commits/051b7b605df4c4863884d805beb769d5db49929c?reference=945e78b86645b179655123cd2fdba83d89d28d07) for 051b7b605df4c4863884d805beb769d5db49929c against 945e78b86645b179655123cd2fdba83d89d28d07 are in. There are significant results. @hargoniX

- 🟥 `build//instructions`: **+9.3G** (**+0.08%**)

**Large changes (11✅, 4🟥)**

- ✅ `elab/bv_decide_inequality//instructions`: **-63.7G** (**-56.75%**)
- ✅ `elab/bv_decide_inequality//maxrss`: **-217MiB** (**-19.85%**)
- ✅ `elab/bv_decide_inequality//task-clock`: **-6s** (**-60.77%**)
- ✅ `elab/bv_decide_inequality//wall-clock`: **-6s** (**-59.53%**)
- ✅ `elab/bv_decide_large_aig//instructions`: **-3.9G** (**-10.02%**)
- ✅ `elab/bv_decide_large_aig//maxrss`: **-281MiB** (**-15.65%**)
- ✅ `elab/bv_decide_mod//instructions`: **-13.3G** (**-6.31%**)
- ✅ `elab/bv_decide_mul//instructions`: **-7.4G** (**-18.59%**)
- ✅ `elab/bv_decide_mul//maxrss`: **-40MiB** (**-3.99%**)
- ✅ `elab/bv_decide_mul//task-clock`: **-533ms** (**-18.74%**)
- ✅ `elab/bv_decide_mul//wall-clock`: **-535ms** (**-18.44%**)
- 🟥 `elab/bv_decide_realworld//instructions`: **+32.8G** (**+209.67%**)
- 🟥 `elab/bv_decide_realworld//maxrss`: **+228MiB** (**+29.52%**)
- 🟥 `elab/bv_decide_realworld//task-clock`: **+1s** (**+142.57%**)
- 🟥 `elab/bv_decide_realworld//wall-clock`: **+1s** (**+123.58%**)

**Medium changes (1✅, 1🟥)**

- ✅ `elab/bv_stress_replicate//instructions`: **-531.5M** (**-3.12%**)
- 🟥 `elab/workspaceSymbols//instructions`: **+398.8M** (**+1.93%**)

**Small changes (3✅, 4🟥)**

- 🟥 `build/module/Std.Sat.AIG.CNF//instructions`: **+9.9G** (**+146.65%**) (reduced significance based on *//lines)
- 🟥 `compiled/ilean_roundtrip//maxrss`: **+4MiB** (**+0.69%**)
- ✅ `compiled/rbmap_fbip//maxrss`: **-352kiB** (**-0.35%**)
- 🟥 `elab/bv_decide_mod//task-clock`: **+1s** (**+5.87%**)
- 🟥 `elab/bv_decide_mod//wall-clock`: **+1s** (**+5.85%**)
- ✅ `elab/bv_stress_replicate//task-clock`: **-64ms** (**-6.46%**)
- ✅ `elab/bv_stress_replicate//wall-clock`: **-52ms** (**-5.06%**)
